US07884210B2
[2-(3-Bicyclo[2.2.1]hept-5-en-2-ylmethyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid
Prepared as described for the synthesis of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid, from c-bicyclo[2.2.1]hept-5-en-2-yl-methylamine, cyclohexanone and 2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester.

reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
solvent | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | [2-(3-Bicyclo[2.2.1]hept-5-en-2-ylmethyl-3-cyclohexyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C12C(CC(C=C1)C2)CN(C(NC=2SC(=CN2)SCC(=O)O)=O)C2CCCCC2 | C20H27N3O3S2
